Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROSURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Carotid stenosis 
 
Major Surgical or Invasive Procedure:
___: Diagnostic Angiogram with left carotid angioplasty
 
History of Present Illness:
___ right-handed male who was found to have a carotid 
bruit and was seen at ___.  At that point, 
his left carotid was seen to be 50-79% narrow, right was less 
than 50%.  He had a CTA recently, which showed near total 
occlusion of the carotid in the neck and may be occlusion of the 
intracavernous carotid.  He is here for consideration of further 
treatment.  He is on an aspirin, but has not been started on a 
statin yet. He would benefit from a diagnostic angiogram to look 
at the status of his cranial circulation.  If he is completely 
occluded in its distal intracavernous carotid, there would be no 
need to intervene on his left carotid stenosis in the neck.  
Plan is to perform an angiogram and with the patient on Plavix 
and aspirin, so that way, a stent could be done if necessary.

 
Past Medical History:
- HTN
- Vasectomy
 
Social History:
___
Family History:
Unknown 
 
Physical Exam:
ON DISCHARGE:
******************
___:
General:
T: 98.1-98.2, HR: 48-69, BP: 96-127/44-68, RR: ___, O2sat:
94-100% 2L via NC.   

Exam:
Opens eyes: [X]spontaneous [ ]to voice [ ]to noxious

Orientation: [X]Person [X]Place [X]Time

Follows commands: [ ]Simple [X]Complex [ ]None

Pupils: 4-2mm bilaterally

EOM: [X]Full [ ]Restricted

Face Symmetric: [X]Yes [ ]NoTongue Midline: [X]Yes [ ]No

Pronator Drift [ ]Yes [X]No     Speech Fluent: [X]Yes [ ]No

Comprehension intact [X]Yes [ ]No

Motor:
TrapDeltoidBicepTricepGrip

IPQuadHamATEHLGast

[X]Sensation intact to light touch

Angio Groin Site: 
[X]Soft, no hematoma, small amount of staining on dressing,
outlined. 
[X]Palpable pulses

 
Pertinent Results:
Please refer to ___ for pertinent imaging and lab results. 
 
Brief Hospital Course:
___ is a ___ year old male who was referred to 
neurosurgery for further workup and management of carotid 
stenosis. He presents for elective diagnostic angiogram. 

#Carotid Stenosis
Patient presented to the pre-op area, was assessed by anesthesia 
and taken to the OR on ___ for diagnostic angiogram with 
left carotid angioplasty. Patient tolerated the procedure well. 
Please refer to formal op report in OMR for further intra 
operative details. Patient was taken to the PACU for post op 
care, and later transferred to the ___ for continued close 
monitoring. Patient remained neurologically intact throughout 
POD 1. Patient underwent carotid ultrasound which revealed 
improved stenosis s/p angioplasty, however continued 60-69% 
occlusion. Patients foley catheter was removed early on POD1, 
patient voiding without difficulty. Patient tolerating PO diet 
and independent for all ADLs. Patient was discharged to home on 
POD 1 with prescriptions for Aspirin and Plavix as well as plan 
to schedule a 3 month follow up with Dr. ___ a repeat 
carotid ultrasound at that time. 
 
Medications on Admission:
ALLOPURINOL - allopurinol ___ mg tablet. 1 (One) tablet(s) by
mouth once a day -  (Prescribed by Other Provider)
AMLODIPINE - amlodipine 10 mg tablet. 1 (One) tablet(s) by mouth
once a day -  (Prescribed by Other Provider)
ATENOLOL - atenolol 25 mg tablet. 1 (One) tablet(s) by mouth 
once
a day -  (Prescribed by Other Provider)
CLOPIDOGREL - clopidogrel 75 mg tablet. 1 (One) tablet(s) by
mouth once a day
ENALAPRIL MALEATE - enalapril maleate 10 mg tablet. 1 (One)
tablet(s) by mouth once a day -  (Prescribed by Other Provider)
LOSARTAN - losartan 50 mg tablet. 1 (One) tablet(s) by mouth 
once
a day -  (Prescribed by Other Provider)
 
Medications - OTC
ASPIRIN - aspirin 81 mg tablet,delayed release. 1 (One) 
tablet(s)
by mouth once a day -  (Prescribed by Other Provider)
ASPIRIN - aspirin 325 mg tablet,delayed release. 1 (One)
tablet(s) by mouth once a day -  (Prescribed by Other Provider)

 
Discharge Medications:
1.  Acetaminophen 325-650 mg PO Q6H:PRN Pain - Mild/Fever 
Please do no exceed 4G/day.  
2.  Aspirin 325 mg PO DAILY 
RX *aspirin 325 mg 1 tablet(s) by mouth Daily Disp #*30 Tablet 
Refills:*0 
3.  Clopidogrel 75 mg PO DAILY 
RX *clopidogrel 75 mg 1 tablet(s) by mouth Daily Disp #*30 
Tablet Refills:*0 
4.  Allopurinol ___ mg PO DAILY  
5.  Atorvastatin 20 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Carotid Stenosis 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Carotid Angioplasty

Activity
• You may gradually return to your normal activities, but we 
recommend you take it easy for the next ___ hours to avoid 
bleeding from your groin.
• Heavy lifting, running, climbing, or other strenuous exercise 
should be avoided for ten (10) days. This is to prevent bleeding 
from your groin.
• You make take leisurely walks and slowly increase your 
activity at your own pace. ___ try to do too much all at once.
• Do not go swimming or submerge yourself in water for five (5) 
days after your procedure.
• You make take a shower POD 2, ___.

Medications
• Resume your normal medications and begin new medications as 
directed.
• It is very important to take the medication your doctor ___ 
prescribe for you to keep your blood thin and slippery. This 
will prevent clots from developing and sticking.
o Please take Aspirin daily 
o Please take Plavix daily
• You may use Acetaminophen (Tylenol) for minor discomfort if 
you are not otherwise restricted from taking this medication.
• If you take Metformin (Glucophage) you may start it again 
three (3) days after your procedure.

Care of the Puncture Site
• You will have a small bandage over the site.
• Remove the bandage in 48 hours by soaking it with water and 
gently peeling it off.
• Keep the site clean with soap and water and dry it carefully.
• You may use a band-aid if you wish.

What You ___ Experience:
• Mild tenderness and bruising at the puncture site (groin).
• Soreness in your arms from the intravenous lines.
• The medication may make you bleed or bruise easily.
• Fatigue is very normal.

When to Call Your Doctor at ___ for:
• Severe pain, swelling, redness or drainage from the puncture 
site. 
• Fever greater than 101.5 degrees Fahrenheit
• Constipation
• Blood in your stool or urine
• Nausea and/or vomiting

Call ___ and go to the nearest Emergency Room if you experience 
any of the following:
• Sudden numbness or weakness in the face, arm, or leg
• Sudden confusion or trouble speaking or understanding
• Sudden trouble walking, dizziness, or loss of balance or 
coordination
• Sudden severe headaches with no known reason
 
Followup Instructions:
___